US08470843B2
Step A: (5SR,6RS)-8-Benzyl-6-hydroxy-2-[-4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one
The title compound was prepared in analogy to example 1 step C from a mixture of (3RS,4SR)-1-benzyl-3-hydroxy-4-(2-methoxy-ethyl)-piperidine-4-carboxylic acid ethyl ester and (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine. Light yellow solid. MS (ESI): 449.2 (MH+)

reactant | (3RS,4SR)-1-benzyl-3-hydroxy-4-(2-methoxy-ethyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(C(CN(CC1)CC1=CC=CC=C1)O)CCOC | C18H27NO4
reactant | (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine | FC(C(OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
product | (5SR,6RS)-8-Benzyl-6-hydroxy-2-[-4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | C(C1=CC=CC=C1)N1CC(C2(CCN(C2=O)C2=CC=C(C=C2)OC(C(F)(F)F)C)CC1)O | C24H27F3N2O3
